US05108363
(a) Preparation of N-Benzyl-3-(4-methoxyphenyl) propanamide
To a solution of 10.80 g (0.060 mole) of 3-(4-methoxyphenyl) propanoic acid and 6.57 g (0.065 mole of triethylamine in 25 ml dichloromethane at about 0.5° C., 6.84 g (0.063 mole) of ethyl chloroformate was added dropwise. The mixture was stirred for about 15 minutes at a temperature of about 5° to 10° C., then 6.96 g (0.065 mole) of benzylamine were added. The resulting mixture was stirred for about thirty minutes, and the solvent was evaporated. The residue was slurried in 5% aqueous sodium hydroxide. The solid was collected by filtration and rinsed with water until neutral. The washing process was repeated using 5% hydrochloric acid. The residue was dried under vacuum to give 11.0 g of the above-identified product, melting point 92°-94° C., which was suitable for use in step (b).

reactant | 3-(4-methoxyphenyl) propanoic acid | 0.060 mole, 10.80 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | triethylamine | 0.065 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.063 mole, 6.84 g | ClC(=O)OCC | C3H5ClO2
reactant | benzylamine | 0.065 mole, 6.96 g | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-Benzyl-3-(4-methoxyphenyl) propanamide | 11.0 g | C(C1=CC=CC=C1)NC(CCC1=CC=C(C=C1)OC)=O | C17H19NO2
